US07807720B2
2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid (B)
To a solution of 2-(4-Fluoro-3-methyl-benzylidene)-hexanoic acid (0.850 g, 3.600 mmol) in 20 mL of MeOH, was added Pd—C (10 wt % on activated carbon, 0.170 g). After stirring at room temperature under H2 for 16 h, the reaction mixture was filtered through a pad of Celite and washed with MeOH. The filtrate was concentrated under reduced pressure and the crude product was used directly in the next step without further purification. LC-MS: tR=9.3 min; m/z 239 (M+H)+.

reactant | 2-(4-Fluoro-3-methyl-benzylidene)-hexanoic acid | 3.600 mmol, 0.850 g | FC1=C(C=C(C=C(C(=O)O)CCCC)C=C1)C | C14H17FO2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd—C | 0.170 g | [Pd] | Pd
product | 2-(4-Fluoro-3-methyl-benzyl)-hexanoic acid | FC1=C(C=C(CC(C(=O)O)CCCC)C=C1)C | C14H19FO2
